US04395409
(b) 7-Chloro-5-phenyl-2-phenylcarbamoyloxyamino-3-phenyloxycarbonyloxy-3H-1,4-benzodiazepine
4 g of 7-chloro-1,3-dihydro-5-phenyl-3-phenyloxycarbonyloxy-2H-1,4-benzodiazepine-2-thione are suspended in 90 ml of dioxane and 1.7 g of sodium bicarbonate and 1.3 g of hydroxylammonium chloride are added, and the mixture is stirred for 8 hours at room temperature (monitoring by thin layer chromatography). After addition of 0.9 ml of phenylisocyanate, the mixture is stirred for 1 hour and water is added to it. The oil produced is decanted off and stirred up with ethanol, and the slurry of crystals is filtered off under suction.

reactant | 7-chloro-1,3-dihydro-5-phenyl-3-phenyloxycarbonyloxy-2H-1,4-benzodiazepine-2-thione | 4 g | ClC=1C=CC2=C(C(=NC(C(N2)=S)OC(=O)OC2=CC=CC=C2)C2=CC=CC=C2)C1 | C22H15ClN2O3S
reactant | sodium bicarbonate | 1.7 g | C([O-])(O)=O.[Na+]
reactant | hydroxylammonium chloride | 1.3 g | [Cl-].O[NH3+]
reactant | phenylisocyanate | 0.9 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dioxane | 90 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 7-Chloro-5-phenyl-2-phenylcarbamoyloxyamino-3-phenyloxycarbonyloxy-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NC(C(=N2)NOC(NC2=CC=CC=C2)=O)OC(=O)OC2=CC=CC=C2)C2=CC=CC=C2)C1 | C29H21ClN4O5
